US04640918
(aa) A mixture of 99 g of hydroquinone, 13.5 g of copper(I) chloride and 180 ml of thiomorpholine is heated to boiling under reflux under argon for 47 hours. After cooling, the mixture is partitioned between 1N sodium hydroxide solution and dichloromethane, the sodium hydroxide extract is adjusted to about pH 1 with concentrated hydrochloric acid while cooling with ice and then partitioned between 0.1N hydrochloric acid and dichloromethane which contains 10% alcohol. The acidic extracts are adjusted to about pH 6 with 50 percent sodium hydroxide solution while cooling with ice and thereafter extracted in each case three times with dichloromethane which contains 10% alcohol as well as dichloromethane which contains 20% alcohol. The material obtained is distilled in a bulb-tube at 180° and 0.01 Torr and then recrystallized from methanol/ether. p-(Tetra-hydro-4H-1,4-thiazin-4-yl)phenol of melting point 156°-158° is obtained.

reactant | hydroquinone | 99 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | thiomorpholine | 180 ml | N1CCSCC1 | C4H9NS
catalyst | copper(I) chloride | 13.5 g | [Cu]Cl
product | p-(Tetra-hydro-4H-1,4-thiazin-4-yl)phenol | S1CCN(CC1)C1=CC=C(C=C1)O | C10H13NOS
